US05756531
Preparation of glyoxylic acid-O-2-[Z-5-fluoro-2-methyl-1-(4-pyridyl)methylene-1H-inden-3-yl]ethyl oxime
The title compound is prepared by reaction of O-2-[Z-5-fluoro-2-methyl-1-(4-pyridyl)methylene-1H-inden-3-yl]ethyl hydroxylamine with glyoxylic acid.

reactant | O-2-[Z-5-fluoro-2-methyl-1-(4-pyridyl)methylene-1H-inden-3-yl]ethyl hydroxylamine | FC=1C=C2C(=C(/C(/C2=CC1)=C/C1=CC=NC=C1)C)CCON | C18H17FN2O
reactant | glyoxylic acid | C(C=O)(=O)O | C2H2O3
product | glyoxylic acid-O-2-[Z-5-fluoro-2-methyl-1-(4-pyridyl)methylene-1H-inden-3-yl]ethyl oxime | FC=1C=C2C(=C(/C(/C2=CC1)=C/C1=CC=NC=C1)C)CCON=CC(=O)O | C20H17FN2O3
